US08686002B2
2.2 2-[(2-Methoxybenzylamino)methyl]-5-nitrophenylamine
The title compound was synthesized according to EXAMPLE 63, section 1.6 starting from 2-amino-N-(2-methoxybenzyl)-4-nitrobenzamide and borane-dimethyl sulfide.

reactant | 2-amino-N-(2-methoxybenzyl)-4-nitrobenzamide | NC1=C(C(=O)NCC2=C(C=CC=C2)OC)C=CC(=C1)[N+](=O)[O-] | C15H15N3O4
reactant | borane-dimethyl sulfide | CSC.B
product | 2-[(2-Methoxybenzylamino)methyl]-5-nitrophenylamine | COC1=C(CNCC2=C(C=C(C=C2)[N+](=O)[O-])N)C=CC=C1 | C15H17N3O3
